US07504392B2
a) 7-Ethoxy-3-(t-butoxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
To a solution of 7-hydroxy-3-(t-butoxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine (10 g, 38 mmol) in dimethylformamide (70 mL) was added sodium hydride (60% dispersion in oil, 1.5 g) and the resulting mixture stirred for 0.5 h. Ethyl iodide (3.6 mL, 45 mmol) was added and the mixture stirred for 12 h at 70° C. The mixture was cooled to room temperature and diluted with diethyl ether (200 mL) and water (200 mL), the layers were separated and the aqueous portion extracted with diethyl ether (200 mL). The combined organic extracts were washed with brine (200 mL) and sodium hydroxide solution (2N, 200 mL) and then evaporated to give a yellow oil.

reactant | 7-hydroxy-3-(t-butoxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 38 mmol, 10 g | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C15H21NO3
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | Ethyl iodide | 45 mmol, 3.6 mL | C(C)I | C2H5I
solvent | dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | water | 200 mL | O | H2O
product | 7-Ethoxy-3-(t-butoxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H25NO3
